US08859777B2
Preparation of 4-Fluoro-4-(3-hydroxyphenyl)-1-(trans-3-phenylcyclopropyl-methyl)piperidine Hydrochloride To a suspension of 4-fluoro-4-(3-hydroxyphenyl)piperidine hydrochloride (100 mg, 0.43 mmol) in THF (3 mL) was added triethylamine (108 mg, 1.07 mmol) and the resulting mixture cooled in an ice bath. A solution of trans-2-phenylcyclopropanecarbonyl chloride (194 mg, 1.07 mmol) in THF (2 mL) was added slowly via syringe over a period of 5 minutes. The reaction was then stirred for additional 3 hours during which time it was allowed to warm to room temperature. The reaction was then quenched by pouring into water (20 mL) and the mixture extracted with ethyl acetate (2×20 mL). The extracts were dried over magnesium sulfate and filtered. The filtrate was then concentrated to afford crude 3-[4-fluoro-1-(trans-2-phenylcyclopropanecarbonyl)piperidin-4-yl]-phenyl trans-2-phenylcyclopropane carboxylate as a viscous clear oil. This oil was dissolved in THF (5 mL) and a 65 wt % solution of vitride in toluene (1.35 mL, 4.50 mmol) added. The resulting mixture was then stirred at room temperature for 2 hours. After this time the reaction was heated to 60° C. for a further 2 hours then cooled back to room temperature. The reaction was then cooled in an ice-bath and ethyl acetate (10 mL) slowly added. The resulting mixture was then slowly added to 10% hydrochloric acid solution (25 mL) and the mixture rapidly stirred for 1 hour. The reaction mixture was then adjusted to pH 8 by the addition of solid sodium bicarbonate and the layers separated. The aqueous was extracted with ethyl acetate (3×10 mL) and the combined organics dried over magnesium sulfate. Subsequent filtration and concentration afforded a brown oil. This material was treated with 10% methanolic hydrogen chloride (5 mL) and re-concentrated. The resulting oil was triturated with 1:1 ethyl acetate/acetone to afford a light brown solid. This solid was isolated by filtration and dried on the pump overnight. This afforded the title compound in 11% overall yield as a tan colored solid.

reactant | 4-Fluoro-4-(3-hydroxyphenyl)-1-(trans-3-phenylcyclopropyl-methyl)piperidine Hydrochloride | Cl.FC1(CCN(CC1)C[C@@H]1C[C@H]1C1=CC=CC=C1)C1=CC(=CC=C1)O
reactant | 4-fluoro-4-(3-hydroxyphenyl)piperidine hydrochloride | 0.43 mmol, 100 mg | Cl.FC1(CCNCC1)C1=CC(=CC=C1)O
reactant | triethylamine | 1.07 mmol, 108 mg | C(C)N(CC)CC | C6H15N
reactant | trans-2-phenylcyclopropanecarbonyl chloride | 1.07 mmol, 194 mg | C1(=CC=CC=C1)[C@H]1[C@@H](C1)C(=O)Cl | C10H9ClO
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-[4-fluoro-1-(trans-2-phenylcyclopropanecarbonyl)piperidin-4-yl]-phenyl trans-2-phenylcyclopropane carboxylate | C1(=CC=CC=C1)[C@H]1[C@@H](C1)C(=O)OC1=CC(=CC=C1)C1(CCN(CC1)C(=O)[C@H]1[C@@H](C1)C1=CC=CC=C1)F | C31H30FNO3
